US05905076
(5R,6S)-6-(N-benzyloxycarbonyl-L-phenylalanyl)-amino-4-oxa-1-azabicyclo[3.2.0]heptan-7-one
To a solution of N-benzyloxycarbonyl-L-phenylalanine (867 mg, 2.90 mmole) and triethylamine (323 mg, 3.2 mmole) in dichloromethane (20 ml), ethyl chloroformate (315 mg, 2.90 mmole) was added at -15° C. The reaction mixture was stirred at -10 to 5° C. for 1.5 hrs. Then a precooled (~-15° C.) solution of (5R,6S)-6-amino-4-oxa-1-azabicyclo[3,2,0]heptan-7-one in ethyl acetate (see above) was added at -15° C. and the resulting mixture was stirred at room temperature for 10 hrs. After removal of solvent, the residue was dissolved in ethyl acetate, washed with water, brine and dried over sodium sulfate. After removal of solvent, the residue was purified by silica gel column chromatography using ethyl acetate-hexane (55:45) as eluent and 205 mg of the title compound was obtained as white solid.

reactant | N-benzyloxycarbonyl-L-phenylalanine | 2.90 mmole, 867 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | triethylamine | 3.2 mmole, 323 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.90 mmole, 315 mg | ClC(=O)OCC | C3H5ClO2
reactant | (5R,6S)-6-amino-4-oxa-1-azabicyclo[3,2,0]heptan-7-one | N[C@H]1[C@H]2OCCN2C1=O | C5H8N2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5R,6S)-6-(N-benzyloxycarbonyl-L-phenylalanyl)-amino-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | 205 mg, Yield: 17% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)[C@@H]1[C@H]2OCC(N2C1=O)N | C22H23N3O5
